US03984467
1-Butyl-3-(benzimidoyl)urea
Following a procedure similar to that described in Example 23 but using 7.7 g. sodium in 1100 ml. dry sodium, 52.4 g. benzamidine hydrochloride, and 33.1 g. butylisocyanate in 400 ml. dry acetone there was obtained, after recrystallization from ethyl acetate, 62.2 g. 1-butyl-3-(benzimidoyl)urea hydrochloride; m.p. 139°-141°C.

reactant | sodium | [Na] | Na
reactant | benzamidine hydrochloride | Cl.C(C1=CC=CC=C1)(=N)N
reactant | butylisocyanate | C(CCC)N=C=O | C5H9NO
solvent | acetone | CC(=O)C | C3H6O
product | 1-Butyl-3-(benzimidoyl)urea | C(CCC)NC(=O)NC(C1=CC=CC=C1)=N | C12H17N3O
